US09023865B2
The solution of (R)-1-(3-(hydroxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (124 mg, 0.224 mmol), cesium carbonate (146 mg, 0.448 mmol) and iodoethane (26.9 μl, 0.336 mmol) in DMF was stirred at 60° C. for 24 h. Water was added into the solution and extracted with EtOAc for twice. The combined organic extracts were washed with water, brine and dried over Na2SO4. After concentration (R)-1-(3-(ethoxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (130 mg, 0.224 mmol, 100% yield) was yielded without purification.

reactant | (R)-1-(3-(hydroxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.224 mmol, 124 mg | OCC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H31N5O2
reactant | cesium carbonate | 0.448 mmol, 146 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 0.336 mmol, 26.9 μl | ICC | C2H5I
reactant | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-1-(3-(ethoxymethyl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.224 mmol, 130 mg, 100% yield | C(C)OCC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H35N5O2
